US05112841
(1) α-Thiocyanoacetophenone
In accordance with the known process (Beilstein, 8, 94), 10.0 g (50 mmol) of o-bromoacetophenone and 4.9 g (50 mmol) of potassium thiocyanate were added to 80 ml of ethyl alcohol, and the resultant mixture was heated at 80° C. for 3 hours and then allowed to stand overnight. Added to the reaction mixture were 50 ml of water. Precipitated crystals were collected by filtration, washed with 50% aqueous ethyl alcohol and then dried, whereby the title compound was obtained as colorless crystals.

reactant | o-bromoacetophenone | 50 mmol, 10.0 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
reactant | potassium thiocyanate | 50 mmol, 4.9 g | [S-]C#N.[K+]
reactant | ethyl alcohol | 80 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | α-Thiocyanoacetophenone | S(C#N)CC(=O)C1=CC=CC=C1 | C9H7NOS
